US09376401B2
Preparation of 4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)aniline (Compound 9)
Tert-butyl (4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)carbamate (0.100 g, 0.213 mol) was dissolved in HCl in dioxane (4 N, 3 mL, 12 mmol) and stirred at 40° C. for 1 h. The solutionwas then cooled, neutralized with saturated aqueous NaHCO3 solution to pH 7, and extracted with diethyl ether (2×10 mL). The combined organic layer was dried and concentrated to afford the title compound as a light tan solid (54 mg, 68%): 1H NMR (400 MHz, CDCl3) δ 8.52 (s, 1H), 7.99 (d, J=8.6 Hz, 1H), 7.79 (d, J=9.0 Hz, 1H), 7.37 (d, J=8.8 Hz, 1H), 6.76 (d, J=8.6 Hz, 1H). 3.9 (br s, 2H); ESIMS m/z 371 ([M+H]+).

reactant | Tert-butyl (4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)carbamate | 0.213 mol, 0.100 g | FC(C(F)(F)F)(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)NC(OC(C)(C)C)=O)F | C21H19F5N4O3
reactant | dioxane | 12 mmol, 4 N, 3 mL | O1CCOCC1 | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | Cl | ClH
product | 4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)aniline | 54 mg, 68% | FC(C(F)(F)F)(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(N)C=C1)F | C16H11F5N4O
